US07807690B2
(4d) {2-[3-(t-Butoxycarbonylaminomethyl)-4-cyanophenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic Acid Methyl Ester
To a mixture of {2-[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylimino]-2-(5-ethyl-2-fluoro-3-triisopropylsilanyloxyphenyl)-1-methylsulfanylethylidene}carbamic acid methyl ester (523 mg) and THF (10 mL) there was added a 1M THF solution of tetrabutylammonium fluoride (1.56 mL) under a nitrogen atmosphere. The mixture was stirred for 90 minutes, and then ethyl acetate (300 mL) and water (100 mL) were added. The mixture was sufficiently shaken, and then the organic layer was separated off, washed twice with water (100 mL) and once with saturated aqueous sodium chloride (100 mL) in that order, and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (346 mg) as a colorless solid.

reactant | {2-[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylimino]-2-(5-ethyl-2-fluoro-3-triisopropylsilanyloxyphenyl)-1-methylsulfanylethylidene}carbamic acid methyl ester | 523 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)O[Si](C(C)C)(C(C)C)C(C)C)F)=NC1=CC(=C(C=C1)C#N)CNC(=O)OC(C)(C)C)SC)=O | C35H49FN4O5SSi
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1.56 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | {2-[3-(t-Butoxycarbonylaminomethyl)-4-cyanophenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic Acid Methyl Ester | 346 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)O)F)=NC1=CC(=C(C=C1)C#N)CNC(=O)OC(C)(C)C)SC)=O | C26H29FN4O5S
